US03961065
To a suspension of 3.76 g. (0.02 mole) of 5-chloro-2-methoxynicotinic acid in 100 ml. of carbon tetrachloride, there were added 100 ml. of thionyl chloride in one portion and the resulting mixture was then refluxed on a steam bath for a period of 90 minutes. Upon completion of this step, the clear solution so obtained was cooled and then concentrated in vacuo at room temperature to afford a residual oil. The excess thionyl chloride present was next removed in the same manner as described in Preparation A for the production of 2-methoxynicotinoyl chloride, except that only 100 ml. of benzene was employed this time (i.e., during each purification step). The yield of pure 5-chloro-2-methoxynicotinoyl chloride, obtained as the residual product, was quantitative in this particular instance.

reactant | 5-chloro-2-methoxynicotinic acid | 0.02 mole | ClC=1C=NC(=C(C(=O)O)C1)OC | C7H6ClNO3
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-chloro-2-methoxynicotinoyl chloride | ClC=1C=NC(=C(C(=O)Cl)C1)OC | C7H5Cl2NO2
